US07465730B2
Utilizing the general procedure outlined in EXAMPLE 1, 3-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)pyrrole (771 mg, 3.0 mmol) and methyl 4-chloro-4-oxobutyrate (0.56 mL, 4.5 mmol) reacted to give 4-[4-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)-1H-pyrrol-3-yl]4-oxo-butyric acid methyl ester as a white solid: 1H NMR (CDCl3, 500 MHz) δ 7.06 (d, 2H), 6.98 (d, 2H), 4.08 (q, 2H), 3.67 (s, 3H), 3.03 (t, 211), 2.74 (t, 2H), 2.41 (s, 3H), 2.11 (s, 3H), 2.06 (s, 3H), 1.45 (t, 3H); MS (ESI) 372 (M+H)+.

reactant | 3-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)pyrrole | 3.0 mmol, 771 mg | C(C)(=O)C1=C(N(C(=C1)C)C1=CC=C(C=C1)OCC)C | C16H19NO2
reactant | methyl 4-chloro-4-oxobutyrate | 4.5 mmol, 0.56 mL | ClC(CCC(=O)OC)=O | C5H7ClO3
product | 4-[4-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)-1H-pyrrol-3-yl]4-oxo-butyric acid methyl ester | COC(CCC(=O)C1=C(N(C(=C1C(C)=O)C)C1=CC=C(C=C1)OCC)C)=O | C21H25NO5
